US05098996
Fluoromethylbenzoyl-glycine t-butyl ester.
Bromomethylbenzoyl-glycine t-butyl ester was fluorinated in 90% yield using tetrabutylammonium fluoride in acetonitrile. NMR (CHCl3) δ 7.84 (d, 2H, Ar-2,6, J=8.3Hz), 7.44 (d, 2H, Ar-3,5, J=7.9Hz), 6.66 (1H, NH), 5.44 (d, 2H, CH2F, J=47Hz), 4.15 (d, 2H, CH2 gly, J=5.0Hz), 1.51 (9H, Bu).

reactant | Bromomethylbenzoyl-glycine t-butyl ester | C(C)(C)(C)OC(CN(C(C1=CC=CC=C1)=O)CBr)=O | C14H18BrNO3
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | C(C)#N | C2H3N
product | Fluoromethylbenzoyl-glycine t-butyl ester | 90% yield | C(C)(C)(C)OC(CN(C(C1=CC=CC=C1)=O)CF)=O | C14H18FNO3
